US05137910
2-Carboxy-3-indoleacetic acid (Compound No. 1)
Ethyl 2-Carboethoxy-3-indoleacetate (0.7 gm) in absolute ethanol (10 ml) was combined with 50% aqueous sodium hydroxide. The mixture was heated to reflux on a steam bath for 15 minutes. The resulting solution was poured into water (50 ml) and the aqueous solution was washed with ether (2×30 ml). The aqueous solution was made acidic by the addition of concentrated hydrochloric acid and chilled to effect crystallization. The resulting white solid was recovered by filtration to provide the product. Analytical data are reported in Table I.

reactant | Ethyl 2-Carboethoxy-3-indoleacetate | 0.7 gm | C(=O)(OCC)C=1NC2=CC=CC=C2C1CC(=O)OCC | C15H17NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Carboxy-3-indoleacetic acid | C(=O)(O)C=1NC2=CC=CC=C2C1CC(=O)O | C11H9NO4
